US06455708B1
N-(2-Cyanoethyl)-2,2-bis(fluoromethyl)-6-trifluoromethyl-2H-1-benzopyran-4-carbothioamide
An amount (103 mg) of 4-bromo-2,2-bis(fluoromethyl)-6-trifluoromethyl-2H-1-benzopyran was dissolved in diethyl ether (0.5 ml); to the solution, 1.68 M n-butyllithium (0.18 ml) was added at −10° C. under a nitrogen atmosphere. After stirring the reaction mixture for 10 minutes, copper(I) cyanide (27 mg) and tetrahydrofuran (0.6 ml) were added and the resulting mixture was stirred for 30 minutes at 0° C. Subsequently, a tetrahydrofuran solution (0.3 ml) of 2-cyanoethyl isothiocyanate (34 mg) was added and the mixture was stirred for 4 hours at 0° C. To the reaction mixture, a saturated aqueous solution of ammonium chloride was added, followed by extraction with diethyl ether; the resulting organic layer was washed with 2 N HCl, a saturated aqueous solution of sodium hydrogencarbonate and a saturated aqueous solution of sodium chloride, dried with anhydrous sodium sulfate and concentrated under reduced pressure; the resulting residue was subjected to silica gel column chromatography (eluent; dichloromethane/diethyl ether=10/1) to give the titled compound (8 mg), which was identical to the authentic sample.

reactant | 4-bromo-2,2-bis(fluoromethyl)-6-trifluoromethyl-2H-1-benzopyran | 103 mg | BrC1=CC(OC2=C1C=C(C=C2)C(F)(F)F)(CF)CF | C12H8BrF5O
reactant | n-butyllithium | 1.68 M, 0.18 ml | C(CCC)[Li]
reactant | copper(I) cyanide | 27 mg | [Cu]C#N
reactant | 2-cyanoethyl isothiocyanate | 34 mg | C(#N)CCN=C=S | C4H4N2S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 0.5 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 0.3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.6 ml | O1CCCC1 | C4H8O
product | N-(2-Cyanoethyl)-2,2-bis(fluoromethyl)-6-trifluoromethyl-2H-1-benzopyran-4-carbothioamide | 8 mg | C(#N)CCNC(=S)C1=CC(OC2=C1C=C(C=C2)C(F)(F)F)(CF)CF | C16H13F5N2OS
